US03943176
2-(p-Fluorobenzylsulfinyl)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one
A mixture of 2-(p-fluorobenzylthio)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one (12.4 g., 0.0443 mole) 30 percent hydrogen peroxide (5.0 g., 0.044 mole) and 100 ml. of glacial acetic acid was allowed to stand at room temperature for 24 hours. The solution was poured into ice water and the precipitated pink crystals were filtered and dried (12.3 g., m.p. 122°-125°C.).

reactant | 2-(p-fluorobenzylthio)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one | 0.0443 mole, 12.4 g | FC1=CC=C(CSC=2C(CC(CC2O)(C)C)=O)C=C1 | C15H17FO2S
reactant | hydrogen peroxide | 0.044 mole, 5.0 g | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(p-Fluorobenzylsulfinyl)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one | FC1=CC=C(CS(=O)C=2C(CC(CC2O)(C)C)=O)C=C1 | C15H17FO3S
